Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Confusion/Dysarthria
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year old woman with HTN, Afib, CAD s/p PCI to LCX,  history 
of splenic malignancy, who presented with altered mental status 
and dysatria found to have L frontal mass who developed 
Afib/Aflutter with RVR requiring MICU transfer for amiodarone 
load. 

The patient lives alone in ___ and over the phone he seemed 
more confused to her family over the last several months. They 
finally convinced her to come to ___ last week. Since then 
she has not been moving her right arm and has been more confused 
with dysarthria and word-finding difficulties. Given her rapid 
decline, her daughter brought her to ___. CT scan 
performed there showed possible frontal lobe mass. She was then 
transferred to ___ for further evaluation. Patient was 
evaluated by neurosurgery who recommended MRI brain with and 
without contrast, no further steroids with question of lymphoma, 
keppra 500mg PO BID, q4h neuro checks. They additionally 
recommended admission to medicine for further oncologic workup 
with neuro onc, rad onc, and heme/onc consults. On arrival to 
the floor, pt reports no dyspnea, chest pain, abdominal pain, or 
dysuria. She is unable to communicate given dysarthria. Her 
daughter states that she has been lost to follow-up with several 
providers in ___ with significant weight loss over the past 
___ years (~30 lbs). She denies headache, fevers, night sweats, 
nausea/vomiting, hemoptysis, palpable breast mass, or irregular 
bleeding.  

Overnight, the patient triggered for tachycardia HR 150-180s. 
EKG concerning for narrow complex tachycardia: Afib vs Aflutter 
with RVR. The patient was given IV Metoprolol Tartrate 5 mg IV 
x2 with resulting hypotension SBP 70-80s. Cardiology was 
curbside. Initially Ibutelide was recommended but no pursued 
given prolonged QTc. Patient was transferred to MICU for 
amiodarone load. On arrival to the MICU, the patient was 
amiodarone loaded (150 mg IV followed by 1 mg/min for 6 hours). 
She was continued on fluid bloused and ordered Phenylephrine for 
BP support. Overnight, the patient intermittently converted to 
sinus HR ___, but switched back to Aflutter. 

 
Past Medical History:
-Splenic CA with mets (history and treatment of this pathology 
are  
unknown to daughter and patient)  
-CAD s/p stent to L circumflex artery  
-Degenerative spine  
-Multiple surgeries on spine and hand, details unknown  
-s/p CCY  
-s/p appendectomy  
-bilateral rotator cuff surgery  
-GERD  
-hypothyroidism  
-HLD  
-Afib  
-depression  
-COPD  
-history of PE  
-HTN  

 
Social History:
___
Family History:
Mother with "collapsed lung".  
Daughter with breast CA.  

 
Physical Exam:
ADMISSION
VS T 97.5 HR 155 Afib/Aflutter BP 103/63 RR 24 SpO2 97% RA
General: Severely cachectic appearing. dysarthric, A&O x 2 
(name, hospital). 
___: Sclerae anicteric, MMM, missing lower dentures  
Neck: Supple, no JVD 
Lungs: Decreased breath sounds at bases 
CV: RRR, Nl S1, S2, No MRG  
Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, no splenomegaly  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN II-XII in tact. ___ strength in flexion and extension 
of R arm with ___ grip strength. ___ strength in LUE/LLE/RLE. No 
dysmetria.

 
Pertinent Results:
ADMISSION LABS

___ 02:40PM BLOOD WBC-15.6*# RBC-3.97 Hgb-12.3 Hct-36.4 
MCV-92 MCH-31.0 MCHC-33.8 RDW-15.5 RDWSD-52.7* Plt ___
___ 02:40PM BLOOD Neuts-69.3 ___ Monos-9.7 Eos-0.2* 
Baso-0.4 Im ___ AbsNeut-10.77* AbsLymp-3.11 AbsMono-1.51* 
AbsEos-0.03* AbsBaso-0.07
___ 02:40PM BLOOD Plt ___
___ 06:50AM BLOOD ___ PTT-26.3 ___
___ 02:40PM BLOOD Glucose-110* UreaN-11 Creat-0.6 Na-137 
K-4.0 Cl-104 HCO3-23 AnGap-14
___ 02:40PM BLOOD LD(LDH)-225
___ 06:50AM BLOOD TSH-4.___BD/PELVIS
1.  Mild intrahepatic and extrahepatic biliary dilatation 
without evidence of 
obstructing mass or stone. 
2.  Small hiatal hernia. 
3.  Extensive degenerative disease in spine. 
4.  Extensive colonic/sigmoid diverticulosis. 

CT CHEST W/ CONTRAST
1.  5-mm right upper lobe, 2-mm right lower lobe, and 8-mm left 
upper lobe 
pulmonary nodules could represent a metastatic focus in the 
absence of 
comparison exams. 
2.  Several calcified granulomas reflecting prior granulomatous 
disease. 
3.  Please refer to the dedicated CT Abdomen and Pelvis exam 
from the same day for findings below the diaphragm. 

MRI HEAD W/ AND W/O 
  
1. Enhancing lesions at the left mid centrum semi ovale and left 
splenium 
which demonstrate slow diffusion and correlate hyperdensity on 
prior CT.  
Findings suggest a hypercellular lesion with signal morphology 
suspicious for a CNS lymphoma versus a high-grade glioma. The 
central nonenhancement at the left mid centrum semi evaluation 
may represent necrosis, which is atypical for CNS lymphoma in an 
immunocompetent patient. Tumefactive demyelination is unlikely 
given patient age. This does not have the typical appearance of 
infarction or metastatic disease. 
  
2. Background sequela of chronic small vessel ischemic disease. 
More focal 
area FLAIR hyperintensity at the anterior left centrum semi 
ovale may 
represent additional microangiopathy versus nonenhancing FLAIR 
hyperintense 
disease. 

3. Significant motion artifact which degrades spatial 
resolution. 

 
Brief Hospital Course:
___ year old woman with HTN, Afib, CAD s/p PCI to LCX,  history 
of splenic malignancy, who presented with altered mental status 
and dysatria found to have L frontal mass who developed 
Afib/Aflutter with RVR requiring MICU transfer for amiodarone 
load (on ___. Given her worsening prognosis as the left 
frontal lobe mass likely represents metastatic disease, the 
patient was made CMO at that time. Transitioned to dilaudid 
drip, Zyprexa intermittently, and Ativan boluses, and 
transferred to the floor for further care.

Given significant smoking history and multiple lung masses 
concern for primary pulmonary malignancy with evidence of edema. 
Patient rapidly declined with intermitten confusion, dysatria, 
and R-sided weakness. Initially, neurosurgery recommended brain 
biopsy, head MRI (which showed diffusion pattern c/w likely high 
grade tumor), HIV, toxo, crypto serologies, Keppra 500mg po bid, 
and multidisciplinary approach involving onc, rad onc and neuro 
onc. However the HCP decided after discussion that such 
aggressive pursuit was not in line with her goals of care, and 
elected to make her CMO shortly after MRI. She died peacefully 
and comfortably on a morphine gtt with family at the bedisde. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
n/a
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
n/a
 
Discharge Condition:
n/a
 
Discharge Instructions:
n/a
 
Followup Instructions:
___